US07737145B2
A solution of 1,1-dimethylethyl 3-[[[4-(methoxycarbonyl)phenyl]methyl]amino]-8-azabicyclo[3.2.1]octane-8-carboxylate (2.1 g, 5.7 mmol) and formaldehyde (1 mL of 37% solution in water) in dichloroethane (20 mL) was stirred as acetic acid (0.37 g, 6.9 mmol) and sodium triacetoxyborohydride (1.7 g, 8 mmol) were added. The reaction was stirred for 17 hours. The reaction was treated with a saturated aqueous solution of sodium bicarbonate and extracted with ethyl acetate (2×). The combined organic extracts were dried and concentrated. Purification by flash chromatography on silica gel using a gradient of ethyl acetate in hexane gave 1.7 g of 1,1-dimethylethyl 3-[[[4-(methoxycarbonyl)phenyl]methyl]methylamino]-8-azabicyclo[3.2.1]octane-8-carboxylate.

reactant | 1,1-dimethylethyl 3-[[[4-(methoxycarbonyl)phenyl]methyl]amino]-8-azabicyclo[3.2.1]octane-8-carboxylate | 5.7 mmol, 2.1 g | COC(=O)C1=CC=C(C=C1)CNC1CC2CCC(C1)N2C(=O)OC(C)(C)C | C21H30N2O4
reactant | formaldehyde | 1 mL | C=O | CH2O
reactant | acetic acid | 6.9 mmol, 0.37 g | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 8 mmol, 1.7 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloroethane | 20 mL | ClC(C)Cl | C2H4Cl2
product | 1,1-dimethylethyl 3-[[[4-(methoxycarbonyl)phenyl]methyl]methylamino]-8-azabicyclo[3.2.1]octane-8-carboxylate | 1.7 g | COC(=O)C1=CC=C(C=C1)CN(C1CC2CCC(C1)N2C(=O)OC(C)(C)C)C | C22H32N2O4
